US06187777B1
6-(3-Fluorophenyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Monohydrate.
Using the method described in Example 30 by employing [1-(3-fluorophenyl)vinyl]pyrrolidine (freshly prepared before use) (1.10 g, 5.81 mmol), 2-methyl-4,6-dichloro-5-nitropyrimidine (Example 76(b)) (1.21 g, 5.81 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (0.9 mL, 5.81 mmol), piperidine (Aldrich Chemical Company) (0.9 mL, 9.3 mmol), NEt3 (Aldrich Chemical Company) (1.0 mL) and SnCl2 (Aldrich Chemical Company) (17 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 82 mg (5%) of the free base as a beige colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.65 (br s, 4), 2.42 (s, 3), 3.72 (br s, 4), 6.85 (s, 1), 7.22 (m, 1), 7.51 (m, 1), 7.75-7.81 (m, 2), 10.97 (s, 1). MS m/z: 311 (M+1). To a hot (near boiling) solution of 6-(3-fluorophenyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine (82.0 mg, 0.26 mmol) in 10:1 EtOAc: MeOH (30 mL) was added 1M etheral HCl (Aldrich Chemical Company) (265 mL, 0.26 mmol). Crystallization occurred as the mixture cooled and the precipitate was collected by filtration, washed with Et2O (2×5 mL) and dried under vacuum to give 82 mg (91%) of the title compound as beige colored small needles. Mp: >285° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.71 (br s, 6), 2.57 (s, 3), 4.06 (br s, 4), 6.99 (s, 1), 7.35 (t, 1, J=8.5), 7.60 (q, 1, J=7.7), 7.83 (d, 1, J=7.6), 7.91 (d, 1, J=10.2), 11.99 (s, 1), 14.34 (s, 1). MS m/z: 311 (M+1). Anal. Calcd for C18H19FN4.HCl.H2O: C, 59.17; H, 6.09; N, 15.34; Cl, 9.70. Found C, 59.17; H, 6.09; N, 15.21; Cl, 9.81.

reactant | 6-(3-fluorophenyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine | 0.26 mmol, 82.0 mg | FC=1C=C(C=CC1)C1CC(CC(N1)C)C1=NC=C2C(N1)=CC=N2 | C18H19FN4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 0.26 mmol, 1M, 265 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 6-(3-Fluorophenyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Monohydrate | 82 mg, 91% | O.Cl.FC=1C=C(C=CC1)C1CC(CC(N1)C)C1=NC=C2C(N1)=CC=N2 | InChI=1S/C18H19FN4.ClH.H2O/c1-11-7-13(18-21-10-17-15(23-18)5-6-20-17)9-16(22-11)12-3-2-4-14(19)8-12;;/h2-6,8,10-11,13,16,22H,7,9H2,1H3,(H,21,23);1H;1H2
